US07812018B2
To a solution of tert-butyl{2-[2-amino-3-(aminocarbonyl)-9H-pyrido[2,3-b]indol-9-yl]ethyl}carbamate (xvi-a, 35.0 mg, 0.095 mmol) in MeOH (2 mL) was added conc. HCl (1 mL). The reaction was stirred at RT. After 2 h, the reaction was concentrated and lyophilized to yield 2-amino-9-(2-aminoethyl)-9H-pyrido[2,3-b]indole-3-carboxamide hydrochloride as a white solid (16, 27 mg, 93%). NH4OAc standard conditions. DAD Retention time =4.48 min. M+H=270. 1H NMR (300 MHz, D2O): Δ8.16 (s, 1), 7.74 (d, J=7.6 Hz, 1H), 7.73-7.42 (m, 1H), 7.36-7.28 (m, 2H), 4.32 (t, J=5.7 Hz, 2H), 3.37 (t, J=5.7 Hz, 2H).

reactant | tert-butyl{2-[2-amino-3-(aminocarbonyl)-9H-pyrido[2,3-b]indol-9-yl]ethyl}carbamate | 0.095 mmol, 35.0 mg | C(C)(C)(C)OC(NCCN1C2=C(C3=CC=CC=C13)C=C(C(=N2)N)C(=O)N)=O | C19H23N5O3
reactant | HCl | 1 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | 2-amino-9-(2-aminoethyl)-9H-pyrido[2,3-b]indole-3-carboxamide hydrochloride | Cl.NC=1C(=CC2=C(N(C3=CC=CC=C23)CCN)N1)C(=O)N | InChI=1S/C14H15N5O.ClH/c15-5-6-19-11-4-2-1-3-8(11)9-7-10(13(17)20)12(16)18-14(9)19;/h1-4,7H,5-6,15H2,(H2,16,18)(H2,17,20);1H
